US04268510
A solution of 5-methoxy-2-nitrobenzaldehyde (2.3 g.) in ethanol (100 ml.) was stirred at ambient temperature, sodium borohydride (0.6 g.) was added and stirring was continued for 2 hours. Water (100 ml.) was added, and the solution was acidified with 2 N hydrochloric acid and extracted with ether (3×100 ml.). The extracts were combined and dried and the solvent was evaporated to give 5-methoxy-2-nitrobenzyl alcohol.

reactant | 5-methoxy-2-nitrobenzaldehyde | 2.3 g | COC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C8H7NO4
reactant | sodium borohydride | 0.6 g | [BH4-].[Na+]
reactant | Water | 100 ml | O | H2O
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-methoxy-2-nitrobenzyl alcohol | COC=1C=CC(=C(CO)C1)[N+](=O)[O-] | C8H9NO4
